US08685991B2
Part A. Preparation of 5-bromo-1-(methylsulfonyl)indoline
To DMF (5.0 ml) was added sodium hydride (53 mg, 1.3 mmol) and the solution stirred at room temperature for 30 min. 5-Bromoindoline (240 mg, 1.2 mmol) was added and the solution was stirred at room temperature for 30 min. Methanesulfonyl chloride (94 ul, 1.2 mmol) was added and the solution stirred at room temperature overnight, then concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with 2% CH3OH/CHCl3 to give the title compound (202 mg, 60%).

reactant | sodium hydride | 1.3 mmol, 53 mg | [H-].[Na+]
reactant | 5-Bromoindoline | 1.2 mmol, 240 mg | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | Methanesulfonyl chloride | 1.2 mmol, 94 ul | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1-(methylsulfonyl)indoline | 202 mg, 60% | BrC=1C=C2CCN(C2=CC1)S(=O)(=O)C | C9H10BrNO2S
